US08227462B2
4-Methyl-5-(2-methylsulphanyl-pyrimidin-4-yl)-thiazol-2-ylamine
Powdered sodium hydroxide (1.09 g) is added to a solution of N′-[5-(3-dimethylamino-acryloyl)-4-methyl-thiazol-2-yl]-N,N-dimethyl-formamidine (2.0 g, prepared as described by S. Wang et al J. Med. Chem. 2004, 47, 1662-1675.) and thiourea (0.57 g) in ethanol (25 ml) and the mixture is heated at reflux for 3 hour with stirring. The reaction mixture is cooled to room temperature and water then methyliodide (0.47 ml) is added. After 1 hour at room temperature the ethanol is removed by evaporation and water is added and the pH is adjusted to 7 with 2N aqueous hydrochloric acid. The title compound is then obtained by filtration. ESI-MS: M+H 239 and M−H 237.

reactant | sodium hydroxide | 1.09 g | [OH-].[Na+]
reactant | N′-[5-(3-dimethylamino-acryloyl)-4-methyl-thiazol-2-yl]-N,N-dimethyl-formamidine | 2.0 g | CN(C=CC(=O)C1=C(N=C(S1)N=CN(C)C)C)C | C12H18N4OS
reactant | thiourea | 0.57 g | NC(=S)N | CH4N2S
reactant | methyliodide | 0.47 ml | CI | CH3I
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-Methyl-5-(2-methylsulphanyl-pyrimidin-4-yl)-thiazol-2-ylamine | CC=1N=C(SC1C1=NC(=NC=C1)SC)N | C9H10N4S2
